US03948939
Ethyl 9-(4-toluoyl)-1,2,3,4-tetrahydrocarbazole-3-carboxylate
1-(4-Toluoyl)-1-phenylhydrazine hydrochloride (13 g.) and 8.7 g. of ethyl cyclohexanone-4-carboxylate (prepared in situ from the corresponding ethylene ketal) in 40 ml. glacial acetic acid, and 5 ml. glacial acetic acid saturated with hydrogen chloride was warmed on a steam bath for thirty minutes, diluted with water and extracted with ether. The ether extracts were washed with potassium bicarbonate solution and water, dried, and evaporated to dryness. The residue was chromatographed on silica gel using 10% ether-pentane as eluant to give 12.7 g. of the title compound; m.p. 70°-72°C. (hexane-ether).

reactant | 1-(4-Toluoyl)-1-phenylhydrazine hydrochloride | 13 g | Cl.C1(=CC=C(C=C1)C(=O)N(N)C1=CC=CC=C1)C
reactant | ethyl cyclohexanone-4-carboxylate | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | Ethyl 9-(4-toluoyl)-1,2,3,4-tetrahydrocarbazole-3-carboxylate | C1(=CC=C(C=C1)C(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)OCC)C | C23H23NO3
